US06194410B1
0.16 g (1 mmol) of N-phenyl-piperazine was added to a solution of 0.17 g (0.5 mmol) of 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 3 ml of DMF and stirred at 60° for 2 hrs. The reaction solution was cooled to RT and evaporated in a high vacuum. The residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2, CH2Cl2/MeOH 19:1) and crystallization from EtOH yielded 0.16 g (67%) of 3-benzenesulphonyl-5-methyl-2-methylsulphanyl-7-(4-phenyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p. >230°.

reactant | N-phenyl-piperazine | 1 mmol, 0.16 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 0.17 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H12ClN3O2S2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-methyl-2-methylsulphanyl-7-(4-phenyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidine | 0.16 g, 67% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C2=CC=CC=C2)C)SC | C24H25N5O2S2
